* TUBE LIBRARY
* Tube list

* 6S3P-EV
* 6S4P
* 6N5S
* 6N16B
* 6G2
* 6G3P Triode
* 6P41S_T Triode mode
* 6P31S_T Triode mode
* 6P13S_T Triode mode
* GU72_T Triode mode
* 6P36S-EV_T Triode mode
* 6P43P_T Triode mode
* 6S45P-E
* GM70
* 6J43P Pentode

*$
.SUBCKT 6S3P-EV 1 2 3 ; P G C (Triode) 21-Sep-2007 by oleg_s
+ PARAMS: MU= 50.05 EX= 2.73 KG1=520.29 KP=1378.63 
+ KVB=1378.63 VCT=0.00 RGI=1000
+ CCG=6.7P CGP=2.4P CCP=1.65P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6G2 1 2 3 ; P G C (Triode) 21-Sep-2007 by oleg_s 
+ PARAMS: MU= 89.21 EX= 1.18 KG1=1532.96 KP=435.27 
+ KVB=2607.84 VCT=0.00 RGI=1000
+ CCG=3.2P CGP=1.6P CCP=3P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6N5S 1 2 3 ; P G C (Triode) 21-Sep-2007 by oleg_s 
+ PARAMS: MU= 6.0 EX= 1.86 KG1=1286.32 KP=5.13
+ KVB=2287.38 VCT=0.00 RGI=1000
+ CCG=9.5P CGP=9.5P CCP=5P
E1 7 0 VALUE={V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT GU72_T 1 2 3 ; P G C (Triode) 23-Sep-2007 by oleg_s
+ PARAMS: MU= 6.8 EX= 1.4 KG1=615 KP=55 
+ KVB=2456 VCT=0.00 RGI=1000
+ CCG=37P CGP=1P CCP=7.5P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6P43P_T 1 2 3 ; P G C (Triode) 24-Sep-2007 by oleg_s
+ PARAMS: MU= 7.18 EX= 1.42 KG1=1088 KP=57.2 
+ KVB=4049 VCT=0.00 RGI=1000
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS


.SUBCKT 6S45P-E 1 2 3 ; P G C 06-Oct-2007 by oleg_s
+ PARAMS: MU= 52 EX= 1.97 KG1=143.56 KP=407 
+ KVB=281.6 VCT=0.00 RGI=1000
+ CCG=11P CGP=4P CCP=1.9P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6G3P 1 2 3 ; P G C (Triode) 12-Oct-2007 by oleg_s 
+ PARAMS: MU= 63 EX= 1.60 KG1=225.23 KP=563.64
+ KVB=4899.4 VCT=0.00 RGI=1000
+ CCG=2.05P CGP=2.3P CCP=1.2P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6J43P A S G K 
* Pins A Anode
* S Screen
* G Grid
* K Cathode
*
* Calculate contribution to cathode current
*
Bat at 0 V=0.636*ATAN(V(A,K)/23)
Bgs gs2 0 V=(URAMP(V(S,K)/41+V(G,K)))**1.8
Bcath cc 0 V=V(gs2)*V(at)
*
* Calculate anode current
*
Ba A K I=13E-3*V(cc)
*
* Calculate screen current
*
Bscrn sc 0 V=V(gs2)*(1.1-V(at))
Bs S K I=1.E-3*V(sc)
*
* Grid current (approximation - does not model low va/vs)
*
Bg G K I=(URAMP(V(G,K)+1)**1.5)*50E-6+V(G,K)/30Meg
*
* Capacitances
*
Cg1 G K 13.5p
Cak A K 3.3p
Cg1a G A 0.035p
Cs S G 1p
.ENDS

.SUBCKT 6P41S_T 1 2 3 ; P G C (Triode) 26-Nov-2007 by oleg_s
+ PARAMS: MU= 5.68 EX= 1.6 KG1=1292.08 KP=42.90 
+ KVB=622.6 VCT=0.00 RGI=1000
+ CCG=23P CGP=10.5P CCP=0.5P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6P31S_T 1 2 3 ; P G C (Triode) 27-Nov-2007 by oleg_s 
+ PARAMS: MU= 5.53 EX= 1.365 KG1=580.46 KP=57
+ KVB=707.45 VCT=0.00 RGI=1000
+ CCG=18P CGP=1.3P CCP=8.5P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6P13S_T 1 2 3 ; P G C (Triode) 27-Nov-2007 by oleg_s 
+ PARAMS: MU= 9.51 EX= 1.26 KG1=686 KP=91.81
+ KVB=8430 VCT=0.00 RGI=1000
+ CCG=18.5P CGP=0.5P CCP=6.5P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6S4P 1 2 3 ; P G C (Triode) 27-Nov-2007
+ PARAMS: MU= 50.0 EX= 2.76 KG1=546.82 KP=257
+ KVB=3933.39 VCT=0.00 RGI=1000
+ CCG=11.45P CGP=3.75P CCP=0.17P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6N16B 1 2 3 ; P G C (Triode) 15-Dec-2007 by oleg_s
+ PARAMS: MU= 24.8 EX= 1.72 KG1=1180 KP=180
+ KVB=5 VCT=0.00 RGI=1000
+ CCG=2.7P CGP=1.5P CCP=1.65P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT 6P36S-EV_T 1 2 3 ; P G C (Triode) 17-dec-2007 by oleg_s
+ PARAMS: MU= 6 EX= 1.7 KG1=880 KP=66 
+ KVB=50 VCT=0.00 RGI=1000
+ CCG=32P CGP=1P CCP=19P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

.SUBCKT GM70 1 2 3 ; P G C (Triode) 28-12-2007 by oleg_s
+ PARAMS: MU= 13 EX= 1.28 KG1=960 KP=20
+ KVB=70000 VCT=0.00 RGI=1000
+ CCG=6.5P CGP=10.5P CCP=4.5P
E1 7 0 VALUE=
+{V(1,3)/KP*LN(1+EXP(KP*(1/MU+(V(2,3)+VCT)/SQRT(KVB+V(1,3)*V(1,3)))))}
RE1 7 0 1G
G1 1 3 VALUE={(PWR(V(7),EX)+PWRS(V(7),EX))/KG1}
RCP 1 3 1G ; TO AVOID FLOATING NODES IN MU-FOLLOWER
C1 2 3 {CCG} ; CATHODE-GRID; 
C2 2 1 {CGP} ; GRID-PLATE; 
C3 1 3 {CCP} ; CATHODE-PLATE; 
D3 5 3 DX ; FOR GRID CURRENT
R1 2 5 {RGI} ; FOR GRID CURRENT
.MODEL DX D(IS=1N RS=1 CJO=10PF TT=1N)
.ENDS

*$
;$SpiceType=AMBIGUOUS
